US04252819
Ethyl 3-(2-pyridylmethylthio)propionimidate was reacted with an equimolar amount of ammonium chloride in methanol for 2 hours at room temperature and the product was recrystallized from a mixture of ethanol and ether to provide 3-(2-pyridylmethylthio)propionamidine dihydrochloride showing a melting point of 140°-143° C.

reactant | Ethyl 3-(2-pyridylmethylthio)propionimidate | N1=C(C=CC=C1)CSCCC(OCC)=N | C11H16N2OS
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | CO | CH4O
product | 3-(2-pyridylmethylthio)propionamidine dihydrochloride | Cl.Cl.N1=C(C=CC=C1)CSCCC(=N)N | InChI=1S/C9H13N3S.2ClH/c10-9(11)4-6-13-7-8-3-1-2-5-12-8;;/h1-3,5H,4,6-7H2,(H3,10,11);2*1H
